US06939885B2
Synthesis of N-[4-Chloro-2-(pyridine-3-carbonyl)-phenyl]-4-methanesulfonyl-benzenesulfonamide
The title compound was prepared according to the general procedure for the synthesis of N-Aryl-benzenesulfonamides previously described using (2-amino-5-chloro-phenyl)-pyridin-3-yl-methanone and 4-Methanesulfonyl-benzenesulfonyl chloride and purified by HPLC. 1H NMR (CDCl3): δ 3.01 (s, 3H), 7.36-7.37 (d, J=2.4 Hz, 1H), 7.43 (m, 1H), 7.54 & 7.57 (dd, J=8.8 Hz, 2.4 Hz, 1H), 7.70-7.73 (m, 1H), 7.77 (d, J=8.8 Hz, 1H), 7.90 (m, 4H), 8.59 (d, J=2.0 Hz, 1H), 8.80 & 8.82 (dd, J=4.8 Hz, 1.6 Hz, 1H), 9.98 (s, 1H). MS: M/z 450.9 (M++1).

reactant | (2-amino-5-chloro-phenyl)-pyridin-3-yl-methanone | NC1=C(C=C(C=C1)Cl)C(=O)C=1C=NC=CC1 | C12H9ClN2O
reactant | 4-Methanesulfonyl-benzenesulfonyl chloride | CS(=O)(=O)C1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO4S2
product | N-[4-Chloro-2-(pyridine-3-carbonyl)-phenyl]-4-methanesulfonyl-benzenesulfonamide | ClC1=CC(=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)S(=O)(=O)C)C(=O)C=1C=NC=CC1 | C19H15ClN2O5S2
